US06482829B2
1-(3,5-Bis-trifluoromethyl-benzoyl)-4-(3-chloro-phenylamino)-piperidine-4-carbonitrile
To a solution of 1-(3,5-bis-trifluoromethyl-benzoyl)-piperidin-4-one (5.1 g, 15 mmol) in acetic acid (20 mL) were added with cooling 3-chloroaniline (1.7 mL, 16.5 mmol) and trimethylsilylcyanide (1.9 mL, 15 mmol) so that the temperature did not rise above 20° C. The suspension was stirred for 6 h at room temperature. The reaction mixture was than added to ice-water (350 mL), ammonia (55 mL, 25%) was added to the mixture which was stirred for 15 min. After that the mixture was extracted with dichloromethane, the organic phases were pooled, washed with brine and dried with MgSO4. The solvent was evaporated and the residue crystallized from ethylacetate to yield the desired product (5.3 g, 74%), m.p. 205-207° C. and MS: m/e=476.1 (M+H+).

reactant | 1-(3,5-bis-trifluoromethyl-benzoyl)-piperidin-4-one | 15 mmol, 5.1 g | FC(C=1C=C(C(=O)N2CCC(CC2)=O)C=C(C1)C(F)(F)F)(F)F | C14H11F6NO2
reactant | 3-chloroaniline | 16.5 mmol, 1.7 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | trimethylsilylcyanide | 15 mmol, 1.9 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | ammonia | 55 mL | N | H3N
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-(3,5-Bis-trifluoromethyl-benzoyl)-4-(3-chloro-phenylamino)-piperidine-4-carbonitrile | 5.3 g, 74% | FC(C=1C=C(C(=O)N2CCC(CC2)(C#N)NC2=CC(=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C21H16ClF6N3O
